US07157464B2
Synthesis of 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-5-ethyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone
Protocol T was followed using 4-Chloro-5-ethyl-3-trifluoromethyl-1-H-pyrazol, K2CO3, 1-[4-(4-Chloro-3-methoxyphenyl)-piperazine-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=2/3, Rf=0.53) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3); 7.18–7.22 (d, 2H), 6.38–6.48 (m, 2H), 4.98 (s, 2H), 3.86 (s, 3H), 3.66–3.76 (m, 4H), 3.1–3.2 (m, 4H), 2.66–2.74 (q, 2H), 1.18–1.28 (m, 3H). MS (ES) M+H) expected=464.82, found 465.

reactant | 4-Chloro-5-ethyl-3-trifluoromethyl-1-H-pyrazol | ClC=1C(=NNC1CC)C(F)(F)F | C6H6ClF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(4-Chloro-3-methoxyphenyl)-piperazine-1-yl]-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)OC | C13H17ClN2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-5-ethyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1CC)Cl)C(F)(F)F)=O)OC | C19H21Cl2F3N4O2
